US08030334B2
A flask is charged with 5-hydroxymethyl-2-methylsulfanyl-benzonitrile (0.866 g, 4.86 mmol) in a mixture of MeOH (10 mL) and water (10 mL). Oxone (7.47 g, 12.16 mmol) is added and the mixture is stirred at room temperature for 16 h. The residue is acidified to pH 1 using aqueous 1M HCl and then extracted with dichloromethane twice. The organic layer is dried over sodium sulfate and concentrated in vacuo to afford 5-hydroxymethyl-2-methanesulfonyl-benzonitrile as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 3.28 (s, 3H), 4.89 (s, 2H), 7.80 (d, J=8.1 Hz, 1H), 7.95 (s, 1H), 8.18 (d, J=8.1 Hz, 1H).

reactant | 5-hydroxymethyl-2-methylsulfanyl-benzonitrile | 4.86 mmol, 0.866 g | OCC=1C=CC(=C(C#N)C1)SC | C9H9NOS
reactant | Oxone | 12.16 mmol, 7.47 g | OOS(=O)[O-].[K+]
reactant | HCl | 1M | Cl | ClH
reactant | MeOH | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 5-hydroxymethyl-2-methanesulfonyl-benzonitrile | OCC=1C=CC(=C(C#N)C1)S(=O)(=O)C | C9H9NO3S
